US09145415B2
To a solution of tris(dibenzylideneacetone)dipalladium(0) (1.0 mg) in 1,4-dioxane (0.86 mL), 2-(dicyclohexylphosphino)-3,6-dimethoxy-2′,4′,6′-triisopropyl-1,1′-biphenyl (1.5 mg) was added at room temperature under a nitrogen atmosphere, and the mixture was stirred at 100° C. for 5 minutes. The reaction mixture was cooled to room temperature, and then (S)-tert-butyl (1-((5-(2-chloro-4-(propylamino)pyrimidin-5-yl)-4-pentyn-1-yl)amino)-1-oxopropan-2-yl)(methyl)carbamate (V1, 12.5 mg), 2-methyl-4-aminopyridine (4.0 mg) and cesium carbonate (19 mg) were added, and the mixture was stirred at 70° C. for 1 hour. The reaction mixture was cooled to room temperature, and then ethyl acetate was added to the reaction mixture. The insoluble matter was removed by filtration through Cerite, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 80 to 0% hexane in ethyl acetate) to obtain (S)-tert-butyl methyl(1-((5-(2-((2-methylpyridin-4-yl)amino)-4-(propylamino)pyrimidin-5-yl)-4-pentyn-1-yl)amino)-1-oxopropan-2-yl)carbamate (V2, 5.6 mg) as yellow oil.

reactant | 2-(dicyclohexylphosphino)-3,6-dimethoxy-2′,4′,6′-triisopropyl-1,1′-biphenyl | 1.5 mg | C1(CCCCC1)P(C1=C(C(=CC=C1OC)OC)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C35H53O2P
reactant | (S)-tert-butyl (1-((5-(2-chloro-4-(propylamino)pyrimidin-5-yl)-4-pentyn-1-yl)amino)-1-oxopropan-2-yl)(methyl)carbamate | 12.5 mg | ClC1=NC=C(C(=N1)NCCC)C#CCCCNC([C@H](C)N(C(OC(C)(C)C)=O)C)=O | C21H32ClN5O3
reactant | 2-methyl-4-aminopyridine | 4.0 mg | CC1=NC=CC(=C1)N | C6H8N2
reactant | cesium carbonate | 19 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 0.86 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 1.0 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-tert-butyl methyl(1-((5-(2-((2-methylpyridin-4-yl)amino)-4-(propylamino)pyrimidin-5-yl)-4-pentyn-1-yl)amino)-1-oxopropan-2-yl)carbamate | 5.6 mg | CN(C(OC(C)(C)C)=O)[C@H](C(=O)NCCCC#CC=1C(=NC(=NC1)NC1=CC(=NC=C1)C)NCCC)C | C27H39N7O3
